US06774221B1
Activation of 20K-hGH Possessing Methionine Residue (Met-20K-hGH)
40 g of cells obtained via the method described in Reference 2 of Unexamined Kokai Application Heisei 10-234386 was suspended in 100 milliliters of PBS (phosphate buffered saline), then the cells were disrupted with 5 minutes of sonication on a sonifier (Branson Ultrasonics corporation). The lysate was subjected to centrifugation (10,000 rpm for 20 minutes) and the supernatant was discarded, to obtain the pellet. Following the addition of 2 liters of 50 mM Tris/HCl and 8 M guanidine hydrochloride solution (pH 8.0) to the pellet to dissolve it, centrifugation (10,000 rpm for 120 minutes) was performed. 24 liters of 50 mM Tris/HCl, 0.2B mM GSSG, 1.4 mM GSH, and 0.7 M arginine (pH 8.0) was added to 2 liters of supernatant obtained, whereupon activation was conducted for 1 day at 4° C.

reactant | Tris HCl | 50 mM, 2 liters | C(C(CO)(CO)N)O.Cl
reactant | guanidine hydrochloride | 8 M, pH 8.0 | Cl.NC(=N)N
reactant | Tris HCl | 50 mM, 24 liters | C(C(CO)(CO)N)O.Cl
reactant | GSSG | C(CC(=O)N[C@@H](CSSC[C@@H](C(=O)NCC(=O)O)NC(=O)CC[C@@H](C(=O)O)N)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C20H32N6O12S2
reactant | GSH | 1.4 mM | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
reactant | arginine | 0.7 M, pH 8.0 | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | PBS | 100 milliliters | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
product | Methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
